US06833378B2
4-(1-Butoxy-propyl)-3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridine
The title compound was prepared by reacting of 1-[3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-propan-1-ol with sodium hydride, followed by quenching with butyl iodide.

reactant | 1-[3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-propan-1-ol | CC=1C(=NC(=CC1C(CC)O)C)OC1=C(C=C(C=C1C)C)C | C19H25NO2
reactant | sodium hydride | [H-].[Na+]
product | 4-(1-Butoxy-propyl)-3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridine | C(CCC)OC(CC)C1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C | C23H33NO2
